US08957062B2
Step A: 1-methylcyclopropyl 4-((1R,2S)-2-{2-[4-(2-methoxy-2-oxoethyl)phenoxy]ethyl}cyclopropyl)piperidine-1-carboxylate
Methyl (4-hydroxyphenyl)acetate (37 mg, 0.22 mmol), 1-methylcyclopropyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate (60 mg, 0.22 mmol), and triphenylphosphine (88 mg, 0.34 mmol) were dissolved in tetrahydrofuran (1 mL) under an atmosphere of nitrogen and cooled at 0° C. DIAD (68 mg, 0.34 mmol) was added and the resulting mixture was warmed to RT and stirred overnight. The mixture was diluted with ethyl acetate (10 mL) and water (5 mL), and the layers were separated. The organic layer was washed with brine (2×10 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (24 g of silica gel, ISCO, eluted with a gradient 0-100% ethyl acetate in Hexane) to afford the title compound. HPLC/MS; 1.27 min, 438 (M+Na)+.

reactant | Methyl (4-hydroxyphenyl)acetate | 0.22 mmol, 37 mg | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 1-methylcyclopropyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate | 0.22 mmol, 60 mg | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OC1(CC1)C | C15H25NO3
reactant | triphenylphosphine | 0.34 mmol, 88 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.34 mmol, 68 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | 1-methylcyclopropyl 4-((1R,2S)-2-{2-[4-(2-methoxy-2-oxoethyl)phenoxy]ethyl}cyclopropyl)piperidine-1-carboxylate | COC(CC1=CC=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C(=O)OC2(CC2)C)C=C1)=O | C24H33NO5
